US07482366B2
Alternatively, n-butyl lithium (1.6 M solution in hexane, 0.9 mL, 1.43 mmol) was slowly added to a solution of 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine (352 mg, 1.3 mmol) in 2.6 mL anhydrous Et2O at −78° C. under nitrogen. The mixture was kept at −78° C. for 1 hr, and then to this mixture was added triisoporpyl borate (489 mg, 2.6 mmol). The mixture was allowed to warm to ambient temperature overnight. The reaction was quenched by water and the pH was adjusted to 5 by carefully addition of 1N aqueous HCl. Two layers were separated and the aqueous layer was extracted with ethyl acatate three times. The extract was washed with brine, dried over sodium sulfate, and concentrated in vacuo to give 2-ethoxy-3-trifluoromethylpyridine-5-boronic acid as a brown oil (240 mg, 67% yield). The product was used for the next step without purification.

reactant | n-butyl lithium | 1.43 mmol, 1.6 M, 0.9 mL | C(CCC)[Li]
reactant | 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine | 1.3 mmol, 352 mg | BrC=1C=C(C(=NC1)OCC)C(F)(F)F | C8H7BrF3NO
reactant | borate | 2.6 mmol, 489 mg | B([O-])([O-])[O-]
solvent | Et2O | 2.6 mL | CCOCC | C4H10O
product | 2-ethoxy-3-trifluoromethylpyridine-5-boronic acid | 240 mg, 67% yield | C(C)OC1=NC=C(C=C1C(F)(F)F)B(O)O | C8H9BF3NO3
